US04315006
(b) 3-Ethyl-5-(2-methoxyethoxymethoxyphenyl)-2-cyclohexenone
A solution of 3-ethoxy-5-(2-methoxyethoxymethoxyphenyl)-2-cyclohexenone (2.0 g) in benzene (60 ml) was added dropwise with stirring in an atmosphere of dry nitrogen to an ice-cooled 1.5 M solution of ethyllithium in benzene (20.8 ml). When the addition was complete, water was added and the mixture was allowed to stand overnight at room temperature. The benzene layer was separated and the aqueous layer was extracted with ether. The organic solutions were combined, dried and the solvents were evaporated under reduced pressure. The residue was purified by preparative-layer chromatography on silica gel using a mixture of ethyl acetate and petroleum ether (b.p. 60°-80°) for elution to afford the title compound (0.65 g) as a pale yellow oil. (Found: C, 70.9; H, 7.7. C18H24O4 requires C, 71.0; H, 7.9%.)

reactant | 3-ethoxy-5-(2-methoxyethoxymethoxyphenyl)-2-cyclohexenone | 2.0 g | C(C)OC1=CC(CC(C1)C1=C(C=CC=C1)OCOCCOC)=O | C18H24O5
reactant | ethyllithium | C(C)[Li]
reactant | water | O | H2O
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20.8 ml | C1=CC=CC=C1 | C6H6
product | 3-Ethyl-5-(2-methoxyethoxymethoxyphenyl)-2-cyclohexenone | 0.65 g | C(C)C1=CC(CC(C1)C1=C(C=CC=C1)OCOCCOC)=O | C18H24O4
